US06743939B2
a) [4-(2-Methoxy-3-pyridinyl)-4-oxobutyl]carbamic acid 1,1-dimethylethyl ester
2-Methoxypyridine (1.9 ml) and then diisopropylamine (0.1 ml) were added to a solution of methyl lithium (10 ml of a 1.6M solution in ether) in tetrahydrofuran (20 ml) at −78° C. and the solution was stirred at 0° C. for 18hand then re-cooled to −78° C. A solution of 1,1-dimethylethyl [3-(methoxymethylamino)-3-oxopropyl]-carbamate (1.6 g) in tetrahydrofuran (5 ml) was added slowly and the resultant solution was allowed to warm to −30° C. over 3.5 h, quenched with aqueous ammonium chloride and extracted with ether (three times). The combined organic extracts were dried (sodium sulphate), evaporated and purified by chromatography on silica eluting with petrol-ether gave the sub-title compound as a colourless oil (0.572 g).

reactant | 2-Methoxypyridine | 1.9 ml | COC1=NC=CC=C1 | C6H7NO
reactant | diisopropylamine | 0.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl lithium | C[Li]
reactant | 1,1-dimethylethyl [3-(methoxymethylamino)-3-oxopropyl]-carbamate | 1.6 g | COCNC(CCNC(OC(C)(C)C)=O)=O | C10H20N2O4
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [4-(2-Methoxy-3-pyridinyl)-4-oxobutyl]carbamic acid 1,1-dimethylethyl ester | 0.572 g | CC(C)(C)OC(NCCCC(=O)C=1C(=NC=CC1)OC)=O | C15H22N2O4
